US08455477B2
4-[(tert-butoxycarbonyl)amino]pyrazolo[1,5-a]pyridin-6-yl trifluoromethanesulfonate (20.0 mg, 0.052 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (21.8 mg, 0.105 mmol), tris(dibenzylideneacetone)dipalladium (0) (4.8 mg, 5.2 μmol), potassium fluoride (10.1 mg, 0.173 mmol), and tri-tert-butylphosphonium tetrafluoroborate (3.0 mg, 10.0 μmol) were suspended in DMF. The mixture was sparged with argon for 10 minutes, then heated to 100° C. for 2 h. The reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to afford a yellow gum. The gum was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to afford tert-butyl [6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]carbamate. 1H NMR (500 MHz, CDCl3) δ 8.35 (s, 1H); 7.89 (s, 2H); 7.76 (s, 1H); 7.66 (s, 1H); 6.73 (s, 1H); 6.47 (s, 1H); 3.94 (s, 3H), 1.56 (s, 9H). LRMS (ESI) calculated for C16H20N5O2 [M+H]+, 314.2; found 314.1.

reactant | 4-[(tert-butoxycarbonyl)amino]pyrazolo[1,5-a]pyridin-6-yl trifluoromethanesulfonate | 0.052 mmol, 20.0 mg | FC(S(=O)(=O)OC=1C=C(C=2N(C1)N=CC2)NC(=O)OC(C)(C)C)(F)F | C13H14F3N3O5S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.105 mmol, 21.8 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 0.173 mmol, 10.1 mg | [F-].[K+]
reactant | tri-tert-butylphosphonium tetrafluoroborate | 10.0 μmol, 3.0 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 5.2 μmol, 4.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl [6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-yl]carbamate | CN1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)NC(OC(C)(C)C)=O | C16H19N5O2
